US08957080B2
Synthesis of (S)-2-(2-((4-amino-6-methyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidine-1-carbonyl)-4-(dimethylamino)-4-methylpent-2-enenitrile
To a solution of (S)-3-(2-((4-amino-6-methyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile (0.1 g, 0.21 mmol, 1.0 eq) in EtOH (2 mL) was added 2-(dimethylamino)-2-methylpropanal (0.06 g, 0.53 mmol, 2.5 eq) and piperidine acetate (5 mg). The resulted solution was stirred at 70° C. for 12 h, concentrated and purified by pre-HPLC to afford the title compound as a white solid (5 mg, 4% in yield). LCMS m/z 564.1 (M+H)+.

reactant | (S)-3-(2-((4-amino-6-methyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile | 0.21 mmol, 0.1 g, 1.0 eq | NC=1C2=C(N=CN1)N(C(=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C)C[C@H]2N(CCC2)C(CC#N)=O | C27H26N6O2
reactant | 2-(dimethylamino)-2-methylpropanal | 0.53 mmol, 0.06 g, 2.5 eq | CN(C(C=O)(C)C)C | C6H13NO
reactant | piperidine acetate | 5 mg | C(C)(=O)O.N1CCCCC1
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)-2-(2-((4-amino-6-methyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)pyrrolidine-1-carbonyl)-4-(dimethylamino)-4-methylpent-2-enenitrile | 5 mg, 4% | NC=1C2=C(N=CN1)N(C(=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C)C[C@H]2N(CCC2)C(=O)C(C#N)=CC(C)(C)N(C)C | C33H37N7O2
